* Extracted by KLayout with SG13G2 LVS runset on : 11/09/2026 14:12

.SUBCKT QDLL_TOP CPOUT2 IN1 IN2 IN3 OUT1 OUT2 OUT3 VCONT2 VDD VSS
X$4 VSS CPOUT2 VSS sg13g2_antennanp
X$5 VSS \$50 VSS sg13g2_antennanp
X$135 VSS IN2 \$25 VCONT2 \$27 \$37 VDD \$26 VCDL
X$137 \$24 IN2 OUT2 VSS VDD PD
X$139 \$86 IN1 OUT1 VSS VDD PD
X$296 VSS IN1 \$49 \$50 \$52 \$51 VDD \$66 VCDL
X$308 \$52 OUT1 VSS VDD DLINE
X$315 \$27 OUT2 VSS VDD DLINE
X$316 IN3 OUT3 VSS VDD DLINE
C$1 VDD VSS cap_cmim w=25.5u l=6.99u A=178.245p P=64.98u m=1
C$2 CPOUT2 VSS cap_cmim w=60u l=20u A=1200p P=160u m=1
C$3 \$50 VSS cap_cmim w=60u l=20u A=1200p P=160u m=1
R$15 CPOUT2 \$24 VSS rppd w=1u l=120u ps=0u b=0 m=1
R$27 \$50 \$86 VSS rppd w=1u l=120u ps=0u b=0 m=1
.ENDS QDLL_TOP

.SUBCKT sg13g2_antennanp A VDD VSS
D$1 VSS A dantenna A=0.6084p P=3.12u m=1
D$2 A VDD dpantenna A=1.407p P=4.78u m=1
.ENDS sg13g2_antennanp

.SUBCKT VCDL VSS VIN \$3 VCONT VOUT \$6 VDD \$8
M$1 \$3 \$3 VDD VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.7616p AD=0.7616p PS=5.16u
+ PD=5.16u rfmode=0
M$2 VDD \$3 \$8 VDD sg13_lv_pmos L=0.13u W=2.24u AS=0.7616p AD=0.7616p PS=5.16u
+ PD=5.16u rfmode=0
M$3 \$8 VIN VOUT VDD sg13_lv_pmos L=0.13u W=4.46u AS=1.5164p AD=1.5164p PS=9.6u
+ PD=9.6u rfmode=0
M$4 \$3 VCONT VSS VSS sg13_lv_nmos L=0.25u W=2u AS=0.68p AD=0.68p PS=4.68u
+ PD=4.68u rfmode=0
M$5 VSS VCONT \$6 VSS sg13_lv_nmos L=0.18u W=3.5u AS=1.19p AD=1.19p PS=7.68u
+ PD=7.68u rfmode=0
M$6 \$6 VIN VOUT VSS sg13_lv_nmos L=0.13u W=2u AS=0.68p AD=0.68p PS=4.68u
+ PD=4.68u rfmode=0
.ENDS VCDL

.SUBCKT PD PDOUT PDIN1 PDIN2 VSS VDD
M$1 VSS PDIN1 \$I3 VSS sg13_lv_nmos L=0.13u W=0.55u AS=0.374p AD=0.174625p
+ PS=2.46u PD=1.185u rfmode=0
M$2 VSS PDIN2 \$I3 VSS sg13_lv_nmos L=0.13u W=0.55u AS=0.15245p AD=0.174625p
+ PS=1.17u PD=1.185u rfmode=0
M$3 VSS PDIN1 \$I5 VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.15245p AD=0.0888p
+ PS=1.17u PD=0.98u rfmode=0
M$4 \$I5 PDIN2 PDOUT VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.0888p AD=0.1628p
+ PS=0.98u PD=1.18u rfmode=0
M$5 PDOUT \$I3 VSS VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.1628p AD=0.3108p
+ PS=1.18u PD=2.32u rfmode=0
M$6 \$I4 PDIN1 VDD VDD sg13_lv_pmos L=0.13u W=1.12u AS=0.3808p AD=0.2128p
+ PS=2.92u PD=1.5u rfmode=0
M$7 VDD PDIN2 \$I4 VDD sg13_lv_pmos L=0.13u W=1.12u AS=0.2128p AD=0.2128p
+ PS=1.5u PD=1.5u rfmode=0
M$8 \$I4 \$I3 PDOUT VDD sg13_lv_pmos L=0.13u W=1.12u AS=0.2128p AD=0.3808p
+ PS=1.5u PD=2.92u rfmode=0
M$9 VDD PDIN1 \$I6 VDD sg13_lv_pmos L=0.13u W=1u AS=0.36p AD=0.1225p PS=2.72u
+ PD=1.245u rfmode=0
M$10 \$I6 PDIN2 \$I3 VDD sg13_lv_pmos L=0.13u W=1u AS=0.1225p AD=0.34p
+ PS=1.245u PD=2.68u rfmode=0
.ENDS PD

.SUBCKT DLINE VIN VOUT VSS VDD
X$1 VDD VSS \$17 VIN sg13g2_dlygate4sd3_1
X$2 VSS VOUT \$16 VDD sg13g2_inv_16
X$3 VSS VDD \$14 \$17 sg13g2_dlygate4sd2_1
X$4 VDD VSS \$14 \$15 sg13g2_inv_4
X$5 VSS \$16 \$15 VDD sg13g2_inv_8
.ENDS DLINE

.SUBCKT sg13g2_inv_16 VSS \$2 \$3 VDD
M$1 VSS \$3 \$2 VSS sg13_lv_nmos L=0.13u W=11.84u AS=2.3606p AD=2.3606p
+ PS=18.96u PD=18.96u rfmode=0
M$17 VDD \$3 \$2 VDD sg13_lv_pmos L=0.13u W=17.92u AS=3.5728p AD=3.6288p
+ PS=25.42u PD=25.52u rfmode=0
.ENDS sg13g2_inv_16

.SUBCKT sg13g2_dlygate4sd3_1 VDD VSS \$3 \$7
M$1 VSS \$5 \$4 VSS sg13_lv_nmos L=0.5u W=0.42u AS=0.1426p AD=0.1428p PS=1.16u
+ PD=1.52u rfmode=0
M$2 VSS \$4 \$3 VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.1426p AD=0.2516p PS=1.16u
+ PD=2.16u rfmode=0
M$3 \$6 \$7 VSS VSS sg13_lv_nmos L=0.13u W=0.42u AS=0.1428p AD=0.0798p PS=1.52u
+ PD=0.8u rfmode=0
M$4 VSS \$6 \$5 VSS sg13_lv_nmos L=0.5u W=0.42u AS=0.0798p AD=0.1428p PS=0.8u
+ PD=1.52u rfmode=0
M$5 \$4 \$5 VDD VDD sg13_lv_pmos L=0.5u W=1u AS=0.34p AD=0.2254p PS=2.68u
+ PD=1.53u rfmode=0
M$6 VDD \$4 \$3 VDD sg13_lv_pmos L=0.13u W=1.12u AS=0.2254p AD=0.4256p PS=1.53u
+ PD=3u rfmode=0
M$7 VDD \$7 \$6 VDD sg13_lv_pmos L=0.13u W=0.42u AS=0.1523p AD=0.1428p PS=1.38u
+ PD=1.52u rfmode=0
M$8 VDD \$6 \$5 VDD sg13_lv_pmos L=0.5u W=1u AS=0.1523p AD=0.34p PS=1.38u
+ PD=2.68u rfmode=0
.ENDS sg13g2_dlygate4sd3_1

.SUBCKT sg13g2_inv_8 VSS \$2 \$3 VDD
M$1 VSS \$3 \$2 VSS sg13_lv_nmos L=0.13u W=5.92u AS=1.2395p AD=1.2395p
+ PS=10.01u PD=10.01u rfmode=0
M$9 VDD \$3 \$2 VDD sg13_lv_pmos L=0.13u W=8.96u AS=1.876p AD=1.876p PS=13.43u
+ PD=13.43u rfmode=0
.ENDS sg13g2_inv_8

.SUBCKT sg13g2_inv_4 VDD VSS \$3 \$4
M$1 VSS \$3 \$4 VSS sg13_lv_nmos L=0.13u W=2.96u AS=0.6734p AD=0.6734p PS=5.52u
+ PD=5.52u rfmode=0
M$5 VDD \$3 \$4 VDD sg13_lv_pmos L=0.13u W=4.48u AS=1.0192p AD=1.0192p PS=7.42u
+ PD=7.42u rfmode=0
.ENDS sg13g2_inv_4

.SUBCKT sg13g2_dlygate4sd2_1 VSS VDD \$5 \$7
M$1 VSS \$4 \$6 VSS sg13_lv_nmos L=0.18u W=0.42u AS=0.1405p AD=0.2163p PS=1.15u
+ PD=1.87u rfmode=0
M$2 VSS \$6 \$5 VSS sg13_lv_nmos L=0.13u W=0.74u AS=0.1405p AD=0.2516p PS=1.15u
+ PD=2.16u rfmode=0
M$3 \$1 \$7 VSS VSS sg13_lv_nmos L=0.13u W=0.42u AS=0.1428p AD=0.1323p PS=1.52u
+ PD=1.05u rfmode=0
M$4 VSS \$1 \$4 VSS sg13_lv_nmos L=0.18u W=0.42u AS=0.1323p AD=0.1428p PS=1.05u
+ PD=1.52u rfmode=0
M$5 \$6 \$4 VDD VDD sg13_lv_pmos L=0.25u W=1u AS=0.445p AD=0.2245p PS=2.89u
+ PD=1.53u rfmode=0
M$6 VDD \$6 \$5 VDD sg13_lv_pmos L=0.13u W=1.12u AS=0.2245p AD=0.3808p PS=1.53u
+ PD=2.92u rfmode=0
M$7 VDD \$7 \$1 VDD sg13_lv_pmos L=0.13u W=0.42u AS=0.2481p AD=0.1428p PS=1.56u
+ PD=1.52u rfmode=0
M$8 VDD \$1 \$4 VDD sg13_lv_pmos L=0.25u W=1u AS=0.2481p AD=0.34p PS=1.56u
+ PD=2.68u rfmode=0
.ENDS sg13g2_dlygate4sd2_1
